US08445509B2
Production of N-(6-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide
To a solution of N-{6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide (700 mg, 1.99 mmol) and anisole (1.73 mL, 15.9 mmol) in trifluoromethylbenzene (7 mL) was added trifluoroacetic acid (1.4 mL), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted 4 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate to give the title compound (65 mg, 14%) as a slightly-yellow solid.

reactant | N-{6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 1.99 mmol, 700 mg | COC1=CC=C(COC=2C=CC=3N(C2)C(=C(N3)NC(=O)C3CC3)C)C=C1 | C20H21N3O3
reactant | anisole | 15.9 mmol, 1.73 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | trifluoromethylbenzene | 7 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
product | N-(6-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide | 65 mg, 14% | OC=1C=CC=2N(C1)C(=C(N2)NC(=O)C2CC2)C | C12H13N3O2
